US07307086B2
Methyl (1S,4S)-4-[(tert-Butoxycarbonyl)amino]-1-isopropylcyclopent-2-ene-1-carboxylate
To a 1.00 M solution of lithium hexamethyldisilazide in THF (202 mL) at −78° C. was added a solution of methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]cyclopent-2-ene-1-carboxylate (22.10 g, 91.59 mmol) in THF (36.2 mL) over 10 min. The solution was stirred at −78° C. for 30 min before isopropyl iodide (10.0 mL, 100 mmol) was added in one portion. The mixture was then moved to a freezer reading at −24° C. and kept overnight. The reaction was quenched with aqueous ammonium chloride and the resulting solution was extracted with ether three times. The ether layers were dried over sodium sulfate and evaporated in vacuo. The residue was purified by flash chromatography on silica eluting with 10% ethyl acetate/hexane to give the title compound (20.2 g). MS calculated for C15H25NO4: (M+H)+284; found 184.2 (M−Boc+H)+.

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]cyclopent-2-ene-1-carboxylate | 91.59 mmol, 22.10 g | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@H](C1)C(=O)OC | C12H19NO4
reactant | isopropyl iodide | 100 mmol, 10.0 mL | C(C)(C)I | C3H7I
solvent | THF | 202 mL | C1CCOC1 | C4H8O
solvent | THF | 36.2 mL | C1CCOC1 | C4H8O
product | Methyl (1S,4S)-4-[(tert-Butoxycarbonyl)amino]-1-isopropylcyclopent-2-ene-1-carboxylate | 20.2 g | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@](C1)(C(=O)OC)C(C)C | C15H25NO4
